2126-05-03 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2126-5-2**] 10:05 AM
   R fem. vascular US done at bedside
 ANGIOGRAPHY - At [**2126-5-2**] 04:00 PM
   To IR for PICC reposition; VS stable throughout procedure
 PICC LINE - START [**2126-5-2**] 08:27 PM
   - Femoral U/S:  no evidence of hematoma or pseudoaneurysm
   - CT abdomen: No evidence RP bleed or hematoma, notable for renal cyst,
   bilateral pleural effusion with atelectasis
   - Repeat HCT mid-30s
   - Thoracic surgery: no surgical intervention at this time, recommend
   [**Last Name (LF) **], [**First Name3 (LF) 503**] imaging to evaluate for mets, and tissue biopsy by EBUS
   - attempted to wean off sedation but developed coughing, hemoptysis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-2**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-5-3**] 02:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-5-2**] 08:23 PM
   Fentanyl - [**2126-5-3**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 44 (43 - 68) bpm
   BP: 128/55(72) {103/46(61) - 149/68(87)} mmHg
   RR: 14 (10 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 75 kg
             Total In:
                                                                  2,354 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                  2,354 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    705 mL
   Urine:
                                                                  1,355 mL
                                                                    405 mL
   NG:
                                                                    500 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    499 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 6.8 L/min
   Physical Examination
   HEENT: Sclera anicteric, MMM, ET tube in place
   Neck: supple, JVP not elevated.
   Lungs: Decreased breath sounds at right base, diffuse expiratory
   rhonchi throughout
   CV: bradycardic rate and rhythm, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Intubated, responds to noxious stimuli
   Labs / Radiology
   174 K/uL
   11.9 g/dL
   100 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.7 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   36.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-4-30**]  04:09 PM
                             [**2126-4-30**]  07:45 PM
                             [**2126-5-1**]  01:52 AM
                             [**2126-5-1**]  08:58 AM
                             [**2126-5-1**]  05:15 PM
                             [**2126-5-2**]  01:44 AM
                             [**2126-5-2**]  07:24 AM
                             [**2126-5-2**]  04:04 PM
                             [**2126-5-2**]  10:12 PM
                             [**2126-5-3**]  02:09 AM
   WBC
   16.2
   11.8
   10.0
   Hct
   39.4
   38.4
   39.4
   39.0
   35.6
   30.9
   36.2
   35.7
   36.2
   Plt
   [**Telephone/Fax (3) 11714**]
   Cr
   0.9
   0.8
   0.9
   TCO2
   23
   Glucose
   103
   109
   100
   Other labs: PT / PTT / INR:11.1/30.8/0.9, Differential-Neuts:87.8 %,
   Lymph:5.7 %, Mono:5.7 %, Eos:0.4 %, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   81M with history of HTN, BPH, presenting with hemoptysis and found to
   have a spiculated mass in RUL.
   # Hemoptysis: Most likely secondary to mass seen on CT chest. The mass
   appears to be adjacent to the right pulmonary artery which is
   concerning.  Bronchoscopy on [**2126-4-30**] with placement of double lumen
   ETT. Episode of submassive hemoptysis on [**2126-4-30**], now s/p coil
   embolization of right bronchial artery.  Has remained hemodynamically
   stable and HCT has been stable.
   - Intubated with double lumen ETT.  Will attempt to wean sedation
   today, wean from vent with goal to extubated today.
   - Start Precedex in an attempt to be able to titrate down (and off)
   propofol.
   - Plan for extubation with anesthesia bedside or in OR with IP (with
   plan to reintubate over a catheteter/wire if needed)
       - watch volume status and consider lasix post-extubation
   - [**Hospital1 **] hct
   - Crossmatch for PRBCs.
   - position right side dependent
   - Bolus with NS for tachycardia, hypotension, UOP
   - F/U IP recs
   - Thoracic surgery to evaluate for possible lobectomy
 F/U thoracic
   recs
   # Volume Overload
 patient is + 2.8 liters since admission.
   Creatinine has been stable.
   - will utilize lasix 20mg IV x 1 after extubation and monitor for
   response.
   - TBB for day -500 to 1 Liter (at most).
   # RUL mass: Concerning for malignancy given appearance, could be
   squamous cell given hemoptysis and central location, however pt does
   not have a tobacco history. TB also a concern, however pt denies TB
   risk factors. Infection is also a possibility.
   - Follow up path from BAL and washings
   - Rule out TB with 3 sputum AFBs.  Sputum x 3 to date has head negative
   smear for AFB, AFB culture pending.
   - Management of bleed as above.
   - F/U cytology
   # Leukocytosis and low-grade fever and presumed HAP.
   - Sputum culture from good lung if sample can be obtained
   - F/U blood cultures (NGTD)
   - Continue vanc/zosyn for now at planned 8-day course (day 3 today),
   could shorten if no evidence of leukocytosis/fever going forward as sx
   may have been due to aspirated blood
   # Hypotension:
   -          Hold antihypertensives for now given hypotension on propofol
   initially.
   -          Bolus PRN for poor UOP
   # BPH:
   - Hold finasteride and alphablocker.
   # FEN: IVFs as above, replete electrolytes, NPO, Advance diet after
   extubated as tolerated
   # Prophylaxis: pneumoboots, famotidine.
   # Access: peripherals; PICC line
   # Code: full
   # Communication: 2 sons [**Name (NI) 11676**].
   # Disposition: ICU for now

2126-05-04 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient did not appear to tolerate 5/0 SBT well enough to be extubated
   (though did quite well with 8/5 PSV). ETT was exchanged over Cook
   catheter, then was found not to be in trachea and was removed. 8.0 ETT
   placed by direct laryngoscopy without difficulty.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-5-4**] 02:20 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-5-3**] 12:54 PM
   Famotidine (Pepcid) - [**2126-5-3**] 08:02 PM
   Fentanyl - [**2126-5-3**] 11:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-4**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 53 (44 - 70) bpm
   BP: 157/67(89) {128/54(72) - 178/92(104)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 73.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,028 mL
                                                                    138 mL
   PO:
             TF:
   IVF:
                                                                  1,028 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    480 mL
   Urine:
                                                                  2,565 mL
                                                                    480 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,837 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 395 (395 - 441) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 7.3 L/min
   Physical Examination
   HEENT: Sclera anicteric, MMM, ET tube in place
   Neck: supple, JVP not elevated.
   Lungs: Decreased breath sounds at right base, otherwise CTA
   CV: bradycardic rate and rhythm, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Intubated, alert, responds appropriately to questions, MAE
   Labs / Radiology
   204 K/uL
   13.2 g/dL
   107 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   12 mg/dL
   104 mEq/L
   141 mEq/L
   38.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-5-1**]  01:52 AM
                             [**2126-5-1**]  08:58 AM
                             [**2126-5-1**]  05:15 PM
                             [**2126-5-2**]  01:44 AM
                             [**2126-5-2**]  07:24 AM
                             [**2126-5-2**]  04:04 PM
                             [**2126-5-2**]  10:12 PM
                             [**2126-5-3**]  02:09 AM
                             [**2126-5-3**]  04:17 PM
                             [**2126-5-4**]  02:34 AM
   WBC
   16.2
   11.8
   10.0
   10.9
   Hct
   38.4
   39.4
   39.0
   35.6
   30.9
   36.2
   35.7
   36.2
   40.3
   38.5
   Plt
   [**Telephone/Fax (3) 11734**]04
   Cr
   0.9
   0.8
   0.9
   0.8
   Glucose
   103
   109
   100
   122
   107
   Other labs: PT / PTT / INR:11.8/27.7/1.0, Differential-Neuts:87.8 %,
   Lymph:5.7 %, Mono:5.7 %, Eos:0.4 %, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
    81M with history of HTN, BPH, presenting with hemoptysis and found to
   have a spiculated mass in RUL.
   # Hemoptysis: Most likely secondary to mass seen on CT chest. The mass
   appears to be adjacent to the right pulmonary artery which is
   concerning.  Bronchoscopy on [**2126-4-30**] with placement of double lumen
   ETT. Episode of submassive hemoptysis on [**2126-4-30**], now s/p coil
   embolization of right bronchial artery.  Has remained hemodynamically
   stable and HCT has been stable.
   - Intubated with single lumen 8.0 ETT.  Will perform SBT with 5/0 with
   goal to extubate today.
   - continue Precedex
   - Plan for extubation with anesthesia bedside
   - Daily HCT
   - T+S for PRBCs.
   - position right side dependent
   - Bolus with NS for tachycardia, hypotension, UOP
   - F/U IP recs
   - Thoracic surgery to evaluate for possible lobectomy
 F/U thoracic
   recs
   # Volume Overload
 patient is + 2.8 liters since admission.
   Creatinine has been stable.
   - Pt received lasix 10mg IV x 1 yesterday and put out extremely well.
   Negative 2 liters yesterday
   - TBB for day EVEN.
   # RUL mass: Concerning for malignancy given appearance, could be
   squamous cell given hemoptysis and central location, however pt does
   not have a tobacco history. TB also a concern, however pt denies TB
   risk factors. Infection is also a possibility.
   - Follow up path from BAL and washings
   - Ruled out TB with 3 negative sputum AFBs.  Sputum x 3 to date has
   head negative smear for AFB, AFB culture pending.
   - Management of bleed as above.
   - F/U cytology
   - d/w IP performing EBUS today while patient still intubated
 plan to
   perform EBUS this coming week.
   # Leukocytosis and low-grade fever and presumed HAP.
   - Sputum culture from good lung if sample can be obtained
   - F/U blood cultures (NGTD)
   - Continue vanc/zosyn for now at planned 8-day course (day 4 today),
   could shorten if no evidence of leukocytosis/fever going forward as sx
   may have been due to aspirated blood
   # Hypotension:
   -          Now that Propofol is off, pressures have been steadily
   increasing.
   -          Started on home norvasc yesterday, slowly add back home
   anti-hypertensives
   -          Bolus PRN for poor UOP
   # BPH:
   - Hold finasteride and alphablocker.
   # FEN: IVFs as above, replete electrolytes, NPO, Advance diet after
   extubated as tolerated
   # Prophylaxis: pneumoboots, famotidine.
   # Access: peripherals; PICC line
   # Code: full
   # Communication: 2 sons [**Name (NI) 11676**].
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-4-30**] 11:38 AM
   PICC Line - [**2126-5-2**] 08:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-05-05 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-5-4**] 11:40 AM
   [**2126-5-4**]:
   - Extubated; O2 sats upper 90s on NC and RR <25 through evening
   - Patient tolerated ice chips and sips so diet advanced to clears
   - Guaiac positive stool in early AM. Stable Hct. Likely old blood
   swallowed with earlier hemoptysis.
   - Plan: Call IP for ? Ebus in morning.  After pathologic diagnosis, rad
   onc consult.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-5**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2126-5-5**] 02:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-5**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 72 (49 - 95) bpm
   BP: 156/83(101) {135/49(70) - 162/83(101)} mmHg
   RR: 19 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 73.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,727 mL
                                                                    374 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,157 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    735 mL
   Urine:
                                                                  2,315 mL
                                                                    485 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                   -588 mL
                                                                   -362 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (400 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   13.1 g/dL
   124 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.4 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   39.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-5-1**]  08:58 AM
                             [**2126-5-1**]  05:15 PM
                             [**2126-5-2**]  01:44 AM
                             [**2126-5-2**]  07:24 AM
                             [**2126-5-2**]  04:04 PM
                             [**2126-5-2**]  10:12 PM
                             [**2126-5-3**]  02:09 AM
                             [**2126-5-3**]  04:17 PM
                             [**2126-5-4**]  02:34 AM
                             [**2126-5-5**]  02:34 AM
   WBC
   11.8
   10.0
   10.9
   10.2
   Hct
   39.4
   39.0
   35.6
   30.9
   36.2
   35.7
   36.2
   40.3
   38.5
   39.0
   Plt
   197
   174
   204
   221
   Cr
   0.8
   0.9
   0.8
   1.0
   Glucose
   109
   100
   122
   107
   124
   Other labs: PT / PTT / INR:12.1/26.2/1.0, Differential-Neuts:87.8 %,
   Lymph:5.7 %, Mono:5.7 %, Eos:0.4 %, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL (low)
   Micro:
   [**5-1**] sputum GS PMNs, few epis; Cx
 sparse growth commensals, sparse
   yeast; no AFB on smear.
   Imaging: [**5-4**] CXR: The tip of the ET tube is below the thoracic inlet
   and 5 cm above the carina.  The NG tube passes into the stomach and the
   position of the left PICC line is unchanged. Bibasilar atelectasis is
   similar with no newly developed areas of
   consolidation or pneumothorax. The mass in the right upper lobe and
   mediastinal lymphadenopathy is unchanged. Cardiomediastinal silhouette
   is normal. Degenerative changes throughout the thoracic spine.
   Assessment and Plan
   81M with history of HTN, BPH, presenting with hemoptysis and found to
   have a spiculated mass in RUL.
   # Hemoptysis: Most likely secondary to mass seen on CT chest.
   Bronchoscopy on [**2126-4-30**] with placement of double lumen ETT. Episode of
   submassive hemoptysis on [**2126-4-30**], now s/p coil embolization of right
   bronchial artery.  Has remained hemodynamically stable and HCT has been
   stable. [**5-3**] ETT exchanged over catheter, unsuccessful, re-intubated
   with laryngoscopy with single lumen ETT. Extubated [**5-4**].
   - continue Precedex
   - Daily HCT
   - T+S for PRBCs.
   - position right side dependent
   - Bolus with NS for tachycardia, hypotension, UOP
   - F/U IP recs
   - IR asked to see pt to rule out spinal a infarction (possible
   complication of bronchial a. embolization)
   # Volume Overload
 LOS 500+.  Creatinine has been stable, slightly
   elevated to 1.0 today from 0.8-0.9.
   - Goal TBB even for today.
   # RUL mass: Concerning for malignancy given appearance, could be
   squamous cell given hemoptysis and central location, however pt does
   not have a tobacco history. TB also a concern, however pt denies TB
   risk factors. Infection is also a possibility.
   - Follow-up path from BAL and washings; cytology shows: [**4-30**] RUL
   bronchial washings: Atypical epithelial cells, favor reactive bronchial
   cells.; [**4-30**] RUL bronchial brushings: negative for malignant cells;
   Reactive bronchial cells and pulmonary macrophages.
   - Thoracic surgery to evaluate for possible lobectomy; no surgical
   intervention at this time; recommend PFTs when possible,  PET-CT, brain
   scan to evaluate for lesions when possible (prefer MRI), EBUS for
   tissue bx vs cervical mediastinoscopy
   - Ruled out TB with 3 negative sputum AFBs.  Sputum x 3 to date has
   head negative smear for AFB, AFB culture pending.
   - Management of bleed as above.
   # Leukocytosis and low-grade fever and presumed HAP.
   - Sputum culture from good lung if sample can be obtained ([**4-30**] sparse
   GNRs, [**4-30**] commensals; [**5-1**] sparse yeast)
   - F/U blood cultures (NGTD)
   - Continue vanc/zosyn for now at planned 8-day course (day 1 = [**5-1**];
   day 5 today), could shorten if no evidence of leukocytosis/fever going
   forward as sx may have been due to aspirated blood
   # Hypotension:
   -          Now that Propofol is off, pressures have been steadily
   increasing.
   -          Started on home norvasc yesterday, slowly add back home
   anti-hypertensives
   -          Bolus PRN for poor UOP
   # BPH:
   - Hold finasteride and alphablocker.
   # FEN: IVFs as above, replete electrolytes, Advance diet as tolerated
   # Prophylaxis: pneumoboots, famotidine.
   # Access: PICC line [**5-2**]
   # Code: full
   # Communication: 2 sons [**Name (NI) 11676**].
   # Disposition: ICU for now